US05614548
(±)-1-S-hexadecyl-3-O-tritylthioglycerol
To a round bottom flask equipped with a magnetic stir bar and drying tube, a solution of 70 grams (0.2 mole) (±)-1-S-hexadecylthioglycerol in 300 milliliters of pyridine was added, followed by the addition of 76.0 grams (0.27 mole) triphenylmethyl chloride. The reaction mixture was stirred at room temperature. After 36 hours, the pyridine was removed in vacuo and the resulting oil was dissolved in 450 milliliters of CHCl3. The solution was extracted twice with 500 milliliter portions of 5% HCl, twice with 500 milliliter portions of water and the nonaqueous solution was dried over anhydrous sodium sulfate. The drying agent was filtered, the solvent was removed in vacuo, the residue was dissolved in 500 milliliters of hexanes, and the solution was placed at -5° Centigrade for 24 hours. The resulting precipitate was redissolved in 500 milliliters of acetone and reprecipitated as before. The final precipitate was filtered and dried under vacuum to give 113 grams (94%) of product, (mp 61°-62° Centigrade). 1H-NMR (CDCl3): delta, 0.7-1.7[m, 31H, (CH2)14CH3 ], 2.3-2.8(m, 4H, CH2 --S--CH2), 3.25[d, 2H, CH2 --O--C(C6H5)3 ], 3.6-4.0(m, 1H, CH2 --CH--CH2), 7.0-7.6[m, 15H, C(C6H5)3 ].

reactant | (±)-1-S-hexadecylthioglycerol | 0.2 mole, 70 grams | C(CCCCCCCCCCCCCCC)SCC(O)CO | C19H40O2S
reactant | triphenylmethyl chloride | 0.27 mole, 76.0 grams | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 300 milliliters | N1=CC=CC=C1 | C5H5N
product | (±)-1-S-hexadecyl-3-O-tritylthioglycerol | 113 grams, 94% | C(CCCCCCCCCCCCCCC)SCC(O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C38H54O2S
